US08211919B2
To a solution of ethyl 3-amino-2-benzylpropanoate (380 mg) in tetrahydrofuran (20 mL) were added di-tert-butyl dicarbonate (408 mg) and triethylamine and the mixture was stirred at ambient temperature for 2 hours. Water was added and the mixture was extracted with ethyl acetate. The separated organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to afford ethyl 2-benzyl-3-[(tert-butoxycarbonyl)amino]propanoate (566 mg) as an oil.

reactant | ethyl 3-amino-2-benzylpropanoate | 380 mg | NCC(C(=O)OCC)CC1=CC=CC=C1 | C12H17NO2
reactant | di-tert-butyl dicarbonate | 408 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 2-benzyl-3-[(tert-butoxycarbonyl)amino]propanoate | 566 mg | C(C1=CC=CC=C1)C(C(=O)OCC)CNC(=O)OC(C)(C)C | C17H25NO4
